US08039472B2
To a solution of 3-(4-hydroxyphenyl)propanoic acid (3.32 g, 20 mmol) in dry DMF (20 ml) is carefully added 1,1′-carbonyldiimidazole (3.24 g, 20 mmol) portionwise. The reaction mixture is stirred at 40° C. for 2 hours after which time DBU (6.02 ml, 40 mmol) and tert-butanol (4.78 ml, 50 mmol) are added and the reaction mixture is now stirred at 65° C. for 2 days. The reaction mixture is allowed to cool to room temperature and poured into water (50 ml) and the product is extracted with diethyl ether (3×30 ml). The organics are combined, dried (MgSO4) and the solvent removed in vacuo to give a yellow oil. Purification by flash chromatography (SiO2, EtOAc/iso-hexane) yields 3-(4-Hydroxy-phenyl)-propionic acid tert-butyl ester as a colourless oil. 1H NMR (DMSO-d6) 9.1 (1H, s), 7.0 (2H, d, J=8.45), 6.65 (2H, d, J=8.45), 2.7 (2H, t, J=7.28), 2.4 (2H, t, J=7.28), 1.4 (9H, s).

reactant | 3-(4-hydroxyphenyl)propanoic acid | 20 mmol, 3.32 g | OC1=CC=C(C=C1)CCC(=O)O | C9H10O3
reactant | 1,1′-carbonyldiimidazole | 20 mmol, 3.24 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | DBU | 40 mmol, 6.02 ml | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | tert-butanol | 50 mmol, 4.78 ml | C(C)(C)(C)O | C4H10O
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | water | 50 ml | O | H2O
product | 3-(4-Hydroxy-phenyl)-propionic acid tert-butyl ester | C(C)(C)(C)OC(CCC1=CC=C(C=C1)O)=O | C13H18O3
